US07410976B2
A mixture of 5-bromo-2-hydroxyacetophenone (104.35 g, 485.26 mmol), N-Boc-piperidin-4-one (98.62 g, 494.96 mmol), 20 mL of pyrrolidine (17.26 g, 242.63 mmol) and 261 mL of MeOH was heated under reflux until the reaction was complete. The mixture was cooled, then 87 mL of H2O were added, and the mixture was filtered and dried to give tert-butyl 6-bromo-4-oxospiro-[chroman-2,4′-piperidine]-1′-carboxylate. Alternatively, 10 mL of pyrrolidine (121.31 mmol) may be used in this procedure. To a solution of tert-butyl 6-bromo-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate (6593 g, 16.6 mol) and DMF (33 L) was added Zn(CN)2 (1947 g, 16.6 mol) and Pd(PPh3)4 (192 g, 0.17 mol). The slurry was heated to 90° C. for 3 hours, then cooled to room temperature and filtered. Water (16 L) was added to the filtrate. The resulting slurry was cooled to 5° C., stirred for 1 hour and filtered. The solid was washed with DMF/water (2:1) and dried under vacuum to give tert-butyl 6-cyano-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate. A solution of 23 g of tert-butyl 6-cyano-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate (67.17 mmol), 13.10 g sodium azide (201.52 mmol), 27.74 g of triethylamine hydrochloride (201.52 mmol), and 460 mL of dry DMF was stirred under a nitrogen atmosphere at 100° C. for 12 hours. After cooling to room temperature, 506 mL of EtOAc were added, followed by 322 mL of 1M HCl (322 mmol). Alternatively, 0.5M HCl maybe added until pH=3. The resulting layers were separated, the organic layer was washed with water/methanol (115 mL/46 mL), and then concentrated to give tert-butyl 4-oxo-6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-1′-carboxylate. A solution of 5.08 g of tert-butyl 4-oxo-6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-1′-carboxylate (13.18 mmol), 8.8 mL of 12 M HCl (105.44 mmol) and 8 mL of methanol was heated to 50° C. until the reaction was complete. The resulting slurry was filtered, washed with 25 mL of methanol at room temperature, and dried to give 6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-4-one hydrochloride salt.

reactant | tert-butyl 4-oxo-6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-1′-carboxylate | 13.18 mmol, 5.08 g | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NN=NN1 | C19H23N5O4
reactant | HCl | 105.44 mmol, 12 M, 8.8 mL | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | 6-(1H-tetrazol-5-yl)spiro[chroman-2,4′-piperidine]-4-one hydrochloride salt | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | InChI=1S/C14H15N5O2.ClH/c20-11-8-14(3-5-15-6-4-14)21-12-2-1-9(7-10(11)12)13-16-18-19-17-13;/h1-2,7,15H,3-6,8H2,(H,16,17,18,19);1H
